US07141596B2
Step 3. Synthesis of ethyl 2-[4-(2-tert-butyl-1,1-dioxido-3-oxoisothiazolidin-5-yl)benzyl]-5-oxopyrrolidine-2-carboxylate
Ethyl 2-[4-(2-tert-butyl-1,1-dioxido-3-oxo-2,3-dihydroisothiazol-5-yl)benzyl]-5-oxopyrrolidine-2-carboxylate (24 mg, 0.055 mmol) was dissolved in ethanol (2.5 mL) and 10% Pd/C (10 mg, 0.09 mmol) was added. Hydrogen was added to a Parr shaker (58 psi) and shaken overnight. Purification by preparative LCMS gave the desired product as a colorless glass (23 mg, 95%). 1H NMR (400 MHz, CD3OD): δ 7.42 (d, J=8.2 Hz, 2H), 7.32 (d, J=8.2 Hz, 2H), 5.12 (t, J=8.9 Hz, 1H), 4.20 (q, J=7.2 Hz, 2H), 3.30 (m, 2H), 3.22 (d, J=13.6 Hz, 1H), 3.13 (d, J=13.6 Hz, 1H), 2.38 (m, 1H), 2.21 (m, 2H), 1.92 (m, 1H), 1.61 (s, 9H), 1.28 (t, J=7.0 Hz, 3H); LCMS found for C21H29N2O6S (M+H)+: m/z=437.

reactant | Ethyl 2-[4-(2-tert-butyl-1,1-dioxido-3-oxo-2,3-dihydroisothiazol-5-yl)benzyl]-5-oxopyrrolidine-2-carboxylate | 0.055 mmol, 24 mg | C(C)(C)(C)N1S(C(=CC1=O)C1=CC=C(CC2(NC(CC2)=O)C(=O)OCC)C=C1)(=O)=O | C21H26N2O6S
reactant | Hydrogen | [H][H] | H2
solvent | ethanol | 2.5 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.09 mmol, 10 mg | [Pd] | Pd
product | ethyl 2-[4-(2-tert-butyl-1,1-dioxido-3-oxoisothiazolidin-5-yl)benzyl]-5-oxopyrrolidine-2-carboxylate | 23 mg, 95% | C(C)(C)(C)N1S(C(CC1=O)C1=CC=C(CC2(NC(CC2)=O)C(=O)OCC)C=C1)(=O)=O | C21H28N2O6S
